US04636521
(i) 2-[2-(5-Acetyl-1H-indol-3-yl)ethyl]-1H-isoindole-1,3(2H)-dione
A suspension of 5-acetyl-1H-indole-3-ethanamine (1.0 g), phthalic anhydride (0.83 g) and sodium acetate (1.0 g) in acetic acid (15 ml) was heated at reflux for 3 h. On cooling the title compound was deposited as an off-white crystalline solid (1.5 g) m.p. 234°-5°.

reactant | 5-acetyl-1H-indole-3-ethanamine | 1.0 g | C(C)(=O)C=1C=C2C(=CNC2=CC1)CCN | C12H14N2O
reactant | phthalic anhydride | 0.83 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | sodium acetate | 1.0 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-[2-(5-Acetyl-1H-indol-3-yl)ethyl]-1H-isoindole-1,3(2H)-dione | C(C)(=O)C=1C=C2C(=CNC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C20H16N2O3
